US05420280
N-{4-(1-hydroxyethyl)-1-(2-phenylethyl)-4-piperidinyl}-N-phenyl-cyclopropylcarboxamide
A solution of 4-(1-hydroxyethyl)-4-(N-phenylamino)-1-(2-phenylethyl)-piperidine (0.200 g), cyclopropylcarboxylic acid chloride (1 g) and triethylamine (2.2 g) in dry benzene (30 ml) was stirred for 2.5 hours at 60°-65° C. After cooling the mixture was washed with dilute sodium carbonate solution, dried over MgSO4 and then concentrated. The residue was chromatographed on silica gel using chloroform-methanol 76:1 as eluant to give the title compound (0.160 g), which with oxalic acid gave an oxalate salt, m.p. 158°-159° C.

reactant | 4-(1-hydroxyethyl)-4-(N-phenylamino)-1-(2-phenylethyl)-piperidine | 0.200 g | OC(C)C1(CCN(CC1)CCC1=CC=CC=C1)NC1=CC=CC=C1 | C21H28N2O
reactant | cyclopropylcarboxylic acid chloride | 1 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-{4-(1-hydroxyethyl)-1-(2-phenylethyl)-4-piperidinyl}-N-phenyl-cyclopropylcarboxamide | 0.160 g | OC(C)C1(CCN(CC1)CCC1=CC=CC=C1)N(C(=O)C1CC1)C1=CC=CC=C1 | C25H32N2O2
